US06313127B1
4-Cyanophenylsulphonyl chloride (202 mg) was added to a solution of 1-(4-aminomethylphenyl)-4-(4-pyridyl)piperazine (268 mg) in pyridine (20 ml). The mixture was heated on a steam bath for three hours. The solvents were removed by evaporation and water (100 ml) added to give a precipitate which was extracted into ethyl acetate (2×100 ml). The ethyl acetate extracts were combined, washed with water, brine, dried (MgSO4)-10% methanol/methylene chloride as eluent to give a solid which was recrystallised from a mixture of tetrahydrofuran/methanol/isohexane to give 1-(4-pyridyl)-4-(4-cyanophenylsulphonamidomethyl-phenyl)piperazine (52 mg) as a solid m.p.229-230° C.; microanalysis found: C,62.8; H,5.6; N,15.7%; C23H23N5O2S.0.25H2O requires: C,62.4; H,5.4; N,15.8%; NMR: 3.15-3.3(m,4H), 3.4-3.55(m,4H), 3.85-4.0(d,2H), 6.8-6.9(dd,4H), 7.0-77.1(d,2H), 7.8-7.9(d,2H), 7.95-8.05(d,2H), 8.18-8.25(d,2H), 8.25-8.4(bt,1H); MS: m/z 434 (MH)+

reactant | 4-Cyanophenylsulphonyl chloride | 202 mg | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | 1-(4-aminomethylphenyl)-4-(4-pyridyl)piperazine | 268 mg | NCC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C16H20N4
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-pyridyl)-4-(4-cyanophenylsulphonamidomethyl-phenyl)piperazine | 52 mg | N1=CC=C(C=C1)N1CCN(CC1)C1=C(C=C(C=C1)C#N)CNS(=O)(=O)C1=CC=CC=C1 | C23H23N5O2S
